US06362212B1
Dichloroethane (20 ml), thionyl chloride (1.31 g, 0.011 mol) and dimethylformamide (0.1 ml) were added to 2-(2,5-dimethylphenoxymethyl)benzoic acid (2.56 g, 0.01 mol), and the mixture was stirred under reflux for 2 hours. After completion of the reaction, the reaction mixture was concentrated under reduced pressure to give crude 2-(2,5-dimethylphenoxymethyl)benzoyl chloride. 1.6M n-butyllithium/n-hexane solution (6.25 ml, 0.01 mol) was added to a mixture of 1-methylpyrazole (0.99 g, 0.012 mol) and THF (10 ml) at −70 to −60° C. over 15 minutes, and then the mixture was stirred at −70° C. to room temperature for 1 hour. The reaction mixture was cooled to −70° C., and a solution of the crude 2-(2,5-dimethylphenoxymethyl)benzoyl chloride in THF (10 ml) was added, and the mixture was stirred at −70° C. for 1 hour. After completion of the reaction, 1N hydrochloric acid (100 ml) was added, and the mixture was extracted with ether. The ether layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure, and the residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give 2-(2,5-dimethylphenoxymethyl)phenyl 1-methylpyrazol-5-yl ketone (0.50 g, 15.6%) as colorless crystals.

reactant | n-butyllithium n-hexane | 0.01 mol, 1.6M, 6.25 ml | C(CCC)[Li].CCCCCC
reactant | 1-methylpyrazole | 0.012 mol, 0.99 g | CN1N=CC=C1 | C4H6N2
reactant | 2-(2,5-dimethylphenoxymethyl)benzoyl chloride | CC1=C(OCC2=C(C(=O)Cl)C=CC=C2)C=C(C=C1)C | C16H15ClO2
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(2,5-dimethylphenoxymethyl)phenyl 1-methylpyrazol-5-yl ketone | 0.50 g, 15.6% | CN1N=CC=C1C(=O)C1=C(C=CC=C1)COC1=C(C=CC(=C1)C)C | C20H20N2O2
